US08871766B2
B) 2-(1,3-oxazol-5-yl)benzoic acid
To a solution of methyl 2-(1,3-oxazol-5-yl)benzoate (4.0 g) in THF (40 mL) was added 2 N aqueous sodium hydroxide solution (20 mL), and the mixture was stirred at room temperature stirred for 2 days. To the reaction mixture was added water, and the mixture was washed with tert-butyl methyl ether. The pH of the obtained aqueous layer was adjusted to 2 with 2N hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was washed with ethyl acetate/petroleum ether to give the title compound (3.3 g).

reactant | methyl 2-(1,3-oxazol-5-yl)benzoate | 4.0 g | O1C=NC=C1C1=C(C(=O)OC)C=CC=C1 | C11H9NO3
reactant | sodium hydroxide | 2 N, 20 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-(1,3-oxazol-5-yl)benzoic acid | 3.3 g | O1C=NC=C1C1=C(C(=O)O)C=CC=C1 | C10H7NO3
